US05021449
(±) N-[(1-Ethyl-2-pyrrolidinyl)methyl]-5-hydroxymethyl-3-methoxy-4-methylthiophene-2-carboxamide
To a solution of (±) N-[(1-ethyl-2-pyrrolidinyl)methyl]-5-formyl-3-methoxy-4-methylthiophene-2-carboxamide (1.15 g) in ethanol (30 ml) was added sodium borohydride (0.154 g) in one portion. The solution was stirred at room temperature for 2 hours and then water (50 ml) added. After extraction with ethyl acetate, washing the organic extracts with water, drying over magnesium sulphate and filtering, the solvent was removed in vacuo to give the title compound as a golden oil, fumarate salt, m.p. 118°-119° C. (ex ethylacetate-ethanol ether as recrystallising solvent).

reactant | (±) N-[(1-ethyl-2-pyrrolidinyl)methyl]-5-formyl-3-methoxy-4-methylthiophene-2-carboxamide | 1.15 g | C(C)N1C(CCC1)CNC(=O)C=1SC(=C(C1OC)C)C=O | C15H22N2O3S
reactant | sodium borohydride | 0.154 g | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (±) N-[(1-Ethyl-2-pyrrolidinyl)methyl]-5-hydroxymethyl-3-methoxy-4-methylthiophene-2-carboxamide | C(C)N1C(CCC1)CNC(=O)C=1SC(=C(C1OC)C)CO | C15H24N2O3S
